US08008303B2
({6-Chloro-4′[4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-methyl)-methyl-carbamic acid tert-butyl ester
A mixture of 5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid (85 mg), 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine (81 mg) and HBTU (120 mg) in dry DMF (4 ml) containing N-methylmorpholine (65 μl) was stirred at room temp for 18 h.

reactant | 5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid | 85 mg | C(C)(C)(C)OC(=O)N(CC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)Cl)C | C21H23ClN2O5
reactant | 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine | 81 mg | CS(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3O2S
reactant | HBTU | 120 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 65 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | ({6-Chloro-4′[4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-methyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)C)=O)=O)=O | C33H40ClN5O6S
